US07601728B2
tert-Butyl {(3R)-1-[2-(aminocarbonyl)-5-(2-chloro-5-fluorobenzyl)-7-cyano-3-methyl-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
Potassium carbonate (42 mg) and then an aqueous hydrogen peroxide solution (a 30-35% aqueous solution, 170 μl) were added dropwise to a solution of tert-butyl {(3R)-1-[5-(2-chloro-5-fluorobenzyl)-2,7-dicyano-3-methyl-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate (162 mg) in a mixture of dimethyl sulfoxide (10 ml) and water (2 ml), and the resulting mixture was stirred overnight at room temperature. A 10% aqueous sodium sulfite solution was added to the reaction solution, followed by extraction with ethyl acetate (200 ml). The organic layer was washed with a 10% aqueous potassium carbonate solution and a saturated aqueous sodium chloride solution, dried over sodium sulfate and then filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a silica gel column chromatography (hexane/ethyl acetate=1/1) to obtain the title compound (77 mg).

reactant | Potassium carbonate | 42 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | OO | H2O2
reactant | tert-butyl {(3R)-1-[5-(2-chloro-5-fluorobenzyl)-2,7-dicyano-3-methyl-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 162 mg | ClC1=C(CN2C(=C(C=3N=C(N(C(C32)=O)C)C#N)C#N)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=C(C=C1)F | C26H27ClFN7O3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | 2 ml | O | H2O
product | tert-Butyl {(3R)-1-[2-(aminocarbonyl)-5-(2-chloro-5-fluorobenzyl)-7-cyano-3-methyl-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 77 mg | NC(=O)C=1N(C(C2=C(N1)C(=C(N2CC2=C(C=CC(=C2)F)Cl)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O)C#N)=O)C | C26H29ClFN7O4
